US09120805B2
To a suspension of 5.00 g (29.7 mmol) 1-tert-butyl-1H-pyrazole-4-carboxylic acid and 5.80 g (59.5 mmol) N,O-dimethylhydroxylamine hydrochloride in 60 ml dichloromethane are added 12.5 g (65.4 mmol) N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride, 4.42 g (32.7 mmol) 1-hydroxybenzothiazol and 16.5 ml (119 mmol) triethylamine. The reaction mixture is stirred for 18 hours at room temperature. It is quenched with saturated sodium hydrogen carbonate solution and the mixture is partitioned between water and dichloromethane. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to afford 1-tert-butyl-1H-pyrazole-4-carboxylic acid methoxy-methyl-amide as colorless crystals; HPLC/MS 1.91 min (B), [M+H] 212.

reactant | 1-tert-butyl-1H-pyrazole-4-carboxylic acid | 29.7 mmol, 5.00 g | C(C)(C)(C)N1N=CC(=C1)C(=O)O | C8H12N2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 59.5 mmol, 5.80 g | Cl.CNOC
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 65.4 mmol, 12.5 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzothiazol | 32.7 mmol, 4.42 g | OS1C=NC2=C1C=CC=C2 | C7H7NOS
reactant | triethylamine | 119 mmol, 16.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 1-tert-butyl-1H-pyrazole-4-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1C=NN(C1)C(C)(C)C)C | C10H17N3O2
